US06743919B2
To a stirred solution of naphthalene (5.8 g, 45.3 mmol) in dry THF (20 mL) was added Na (0.85 g, 37.0 mmol) under N2. After 15 minutes stirring at room temperature, the resultant green suspension was cooled to −78° C. A cooled (−78° C.) solution of 2-[5-(Toluene-4-sulfonyl)-1H-imidazol-4-yl]-pyridine (Tetrahedron Lett. 1976, 285) (1 g, 3.34 mmol) in dry THF (20 mL) was then added through a cannula. Stirring was continued at −78° C. for 30 minutes and then at room temperature for 10 minutes. The reaction was quenched with the addition of H2O at 0° C. The reaction mixture was diluted with ethyl acetate (80 mL), washed successively with H2O (50 mL) and brine (50 mL), dried over Na2SO4. After removal of the volatile components in vacuo, the residue was dissolved in dry DMF (5 mL) with stirring. NaH (60% with mineral oil, 0.2 g, 5.0 mmol) was then added. After stirring at room temperature for 15 minutes, a solution of SEM-Cl (0.58 g, 3.5 mmol) in dry DMF (1 mL) was then added slowly. After stirring at room temperature for 3 hours, the reaction mixture was poured into cold H2O (50 mL); any undissolved materials were filtered off. The filtrate was then extracted with dichloromethane (3×30 mL) washed with H2O (3×50 mL), brine (50 mL) and dried (Na2SO4). Flash chromatography on silica gel column (4:1 hexane/ethyl acetate to 2:1 hexane/ethyl acetate to 4:1 ethyl acetate/hexane) afforded the intermediate 2-[1-(2-trimethylsilanylethoxymethyl)-1H-imidazol-4-yl]-pyridine as a colorless syrup (20.5 mg, 2.1%). 1H NMR (CDCl3) δ0.10 (s, 9H), 1.00 (t, 2H, J=7), 3.62 (t, 2H, J=7), 5.40(s, 2H), 7.22(t, 2H, J=4), 7.70-7.85 (m, 2H), 8.10 (d, 1H, J=6),8.65(d, 1H, J=4) ppm; the other shows chemical shift at d 0.10 (s, 9H), 1.00 (t, 2H, J=7), 3.70 (t, 2H, J=7), 5.90(s, 2H), 7.22(t, 2H, J=4), 7.70-7.85 (m, 2H), 8.15 (d, 1H, J=6),8.72(d, 1H, J=4)ppm; LCMS calcd for (C14H21N3OSi): 275.1; found: 276.1 (M+H)+.

reactant | naphthalene | 45.3 mmol, 5.8 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | 2-[5-(Toluene-4-sulfonyl)-1H-imidazol-4-yl]-pyridine | 3.34 mmol, 1 g | C1(=CC=C(C=C1)S(=O)(=O)C1=C(N=CN1)C1=NC=CC=C1)C | C15H13N3O2S
reactant | NaH | 5.0 mmol, 0.2 g | [H-].[Na+]
reactant | SEM-Cl | 3.5 mmol, 0.58 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 2-[1-(2-trimethylsilanylethoxymethyl)-1H-imidazol-4-yl]-pyridine | 20.5 mg, 2.1% | C[Si](CCOCN1C=NC(=C1)C1=NC=CC=C1)(C)C | C14H21N3OSi
